US07842688B2
c) tert-Butyl 3-[1-(2-azidoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.455 g of tert-butyl 3-{3,3-dimethyl-1-[2-(toluene-4-sulphonyloxy)ethyl]-2,3-dihydro-1H-indol-6-ylmethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 5.0 ml of N,N-dimethylformamide is admixed with 0.286 g of sodium azide and stirred at 65° C. over 1.5 hours. The reaction mixture is cooled, admixed with water (40 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are washed successively with water (40 ml) and brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.33 (1:2 EtOAc-heptane); Rt=6.56.

reactant | tert-butyl 3-{3,3-dimethyl-1-[2-(toluene-4-sulphonyloxy)ethyl]-2,3-dihydro-1H-indol-6-ylmethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.455 g | CC1(CN(C2=CC(=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C47H60N2O9S
reactant | sodium azide | 0.286 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-[1-(2-azidoethyl)-3,3-dimethyl-2,3-dihydro-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | N(=[N+]=[N-])CCN1CC(C2=CC=C(C=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C)(C)C | C40H53N5O6
